US06727264B1
1-BROMO-2-(3-CHLOROPROPOXY)BENZENE:
Prepared by Procedure U and Scheme AK using 2-bromophenol and 1-bromo-3-chloropropane.

reactant | 2-bromophenol | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 1-BROMO-2-(3-CHLOROPROPOXY)BENZENE | BrC1=C(C=CC=C1)OCCCCl | C9H10BrClO
